US08349846B2
3-Bromo-2-{(E)-2-[3-methoxy-2-(pentyloxy)phenyl]vinyl}-4H-pyrido[1,2-a]pyrimidin-4-one
The title compound was prepared from 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (1.20 g, 5.01 mmol) and 3-methoxy-2-(pentyloxy)benzaldehyde (1.22 g, 5.521 mmol) in the presence of sodium ethoxide (0.512 g, 7.52 mmol) in absolute ethanol (30 ml) as described in Intermediate 1 to give 625 mg of the product as a light yellow solid; 1H NMR (300 MHz, CDCl3) δ 0.92 (t, J=6.9 Hz, 3H), 1.40 (q, J=7.2 Hz, 2H), 1.51-1.59 (m, 2H), 1.85 (q, J=7.8 Hz, 2H) 3.87 (s, 3H), 4.01 (t, J=6.3 Hz, 2H), 6.91 (d, J=7.8 Hz, 1H), 7.05-7.11 (m, 2H), 7.33 (d, J=7.8 Hz, 1H), 7.60-7.71 (m, 3H), 8.40 (d, J=15.9 Hz, 1H), 8.96 (d, J=6.6 Hz, 1H).

reactant | 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 5.01 mmol, 1.20 g | BrC1=C(N=C2N(C1=O)C=CC=C2)C | C9H7BrN2O
reactant | 3-methoxy-2-(pentyloxy)benzaldehyde | 5.521 mmol, 1.22 g | COC=1C(=C(C=O)C=CC1)OCCCCC | C13H18O3
reactant | sodium ethoxide | 7.52 mmol, 0.512 g | [O-]CC.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Bromo-2-{(E)-2-[3-methoxy-2-(pentyloxy)phenyl]vinyl}-4H-pyrido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C=CC=C2)\C=C\C2=C(C(=CC=C2)OC)OCCCCC | C22H23BrN2O3
